US05741909
2-Ethoxymethyl-1-(2-methylpropyl)-1H-imidazo-[4,5-c]quinoline
4-(2-Methylpropylamino)-3-nitroquinoline (30.5 g; 0.12 mol) was added to a mixture of ethyl acetate (800 mL), 5% platinum on carbon (1.5 g) and magnesium sulfate (10 g). The mixture was hydrogenated on a Parr apparatus at an initial hydrogen pressure of 30 psi. When the hydrogenation was complete, the solids were removed and the ethyl acetate was evaporated. The resulting intermediate diamine was mixed with ethoxyacetic acid (80.5 mL) and heated with stirring at 130° C. for 2-3 hours. The reaction mixture was cooled, poured into 400 mL of water and then made basic with 6N sodium hydroxide. A green solid was collected and dried to provide 8.8 g of the desired product. The structure was confirmed by nuclear magnetic resonance spectroscopy. The filtrate was extracted with ether (4×150 mL). The ether extracts were combined then evaporated to provide 11.2 g of a green solid. The solids were combined and used in subsequent reactions.

reactant | 4-(2-Methylpropylamino)-3-nitroquinoline | 0.12 mol, 30.5 g | CC(CNC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-])C | C13H15N3O2
reactant | magnesium sulfate | 10 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | hydrogen | [H][H] | H2
reactant | ethyl acetate | 800 mL | C(C)(=O)OCC | C4H8O2
catalyst | platinum on carbon | 1.5 g | [Pt] | Pt
product | 2-Ethoxymethyl-1-(2-methylpropyl)-1H-imidazo-[4,5-c]quinoline | 8.8 g | C(C)OCC=1N(C2=C(C=NC=3C=CC=CC23)N1)CC(C)C | C17H21N3O
